US08865732B2
A mixture of 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (53 mg, 0.25 mmol), 5-(5-bromo-2-(4-fluorophenyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine (123 mg, 0.25 mmol; prepared similarly as per Example 2, Steps 2-3), and aqueous 2.0 M Na2CO3 solution (0.5 mL, 1.0 mmol) in DME (3 mL) was sparged with Ar for 5 min. A catalytic amount of Pd(PPh3)4 was added and the mixture was purged with Ar again. Then the reaction was heated to and maintained at 90° C. for 16 h. The reaction mixture was allowed cool to rt and partitioned between EtOAc and water. The layers were separated and the aqueous phase was extracted with EtOAc (2×). The combined organic layers were dried (Na2SO4) and concentrated. The resulting residue was dissolved in dry MeOH (5 mL) and treated with Pd/C (10% w/w, 5.7 mg, 0.005 mmol). The reaction mixture was placed and maintained under a H2 atmosphere for 2 d. The reaction was then filtered through Celite, the filter cake was washed thoroughly with EtOAc. The combined filtrate was concentrated and the resulting residue was purified by flash chromatography (SiO2, 50:50-0:100 hexanes-EtOAc). The isolated material was treated with 3 N HCl at 60° C. for 1 h. The reaction was allowed to cool to rt and was directly purified on reverse phase HPLC, as after freeze drying, provided 6.0 mg of 5-(2-(4-fluorophenyl)-5-(tetrahydro-2H-pyran-4-yl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine as the TFA salt: LCMS (m/z): 369.0 (MH+), tR=0.44 min

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.25 mmol, 53 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | 5-(5-bromo-2-(4-fluorophenyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine | BrC1=C(N=C(N1)C1=CC=C(C=C1)F)C=1C=C(C(=NC1)N)OC | C15H12BrFN4O
reactant | Na2CO3 | 1.0 mmol, 2.0 M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd/C | 0.005 mmol, 5.7 mg | [Pd] | Pd
product | 5-(2-(4-fluorophenyl)-5-(tetrahydro-2H-pyran-4-yl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine | 6.0 mg | FC1=CC=C(C=C1)C=1NC(=C(N1)C=1C=C(C(=NC1)N)OC)C1CCOCC1 | C20H21FN4O2
